US07943748B2
(2) Synthesis of 4-Bromo-1-methoxynaphthalene-2-carbaldehyde
In a nitrogen stream, an n-butyllithium hexane solution (1.6 M, 56.9 ml, 91.1 mmol) was added dropwise to a solution of 2,4-dibromo-1-methoxy-naphthalene (30.3 g, 95.9 mmol) in THF (1,800 ml) at −78° C. and the reaction mixture was stirred at the same temperature for 30 minutes. To this mixture, N,N-dimethylformamide (8.9 ml, 115.1 mmol) was added at −78° C. The mixture was stirred at the same temperature for three hours, and then a saturated ammonium chloride aqueous solution was added thereto and the mixture was extracted with ether. The organic layer was washed with a saturated sodium chloride aqueous solution and dried (anhydrous magnesium sulfate), and then the solvent was distilled under reduced pressure. The obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:8)] to obtain the title compound (3.85 g, 15%).

reactant | n-butyllithium hexane | 91.1 mmol, 1.6 M, 56.9 ml | CCCCCC.C(CCC)[Li]
reactant | 2,4-dibromo-1-methoxy-naphthalene | 95.9 mmol, 30.3 g | BrC1=C(C2=CC=CC=C2C(=C1)Br)OC | C11H8Br2O
reactant | N,N-dimethylformamide | 115.1 mmol, 8.9 ml | CN(C=O)C | C3H7NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 1,800 ml | C1CCOC1 | C4H8O
product | 4-Bromo-1-methoxynaphthalene-2-carbaldehyde | 3.85 g, 15% | BrC1=CC(=C(C2=CC=CC=C12)OC)C=O | C12H9BrO2
